US08030347B2
(4-Bromophenyl)-(3,5-diethoxyphenoxy)acetic acid
16.9 g (41.3 mmol) of methyl(4-bromophenyl)-(3,5-diethoxyphenoxy)acetate are dissolved in 80 ml of methanol and 8 ml of water under argon at RT, and 7.99 g (57.8 mmol) of potassium carbonate are added. The mixture is heated under RF for 4 h. After cooling, the precipitate is filtered off, the filtrate is concentrated, the residue is taken up in water and the solution is extracted four times with diethyl ether. The aqueous phase is adjusted to a pH of 2 by adding 10% strength hydrochloric acid and is extracted three times with ethyl acetate, and the combined ethyl acetate phases are washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. 16.1 g (99% of theory) of the product are obtained.

reactant | methyl(4-bromophenyl)-(3,5-diethoxyphenoxy)acetate | 41.3 mmol, 16.9 g | COC(C(OC1=CC(=CC(=C1)OCC)OCC)C1=CC=C(C=C1)Br)=O | C19H21BrO5
reactant | water | 8 ml | O | H2O
reactant | potassium carbonate | 57.8 mmol, 7.99 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | (4-Bromophenyl)-(3,5-diethoxyphenoxy)acetic acid | BrC1=CC=C(C=C1)C(C(=O)O)OC1=CC(=CC(=C1)OCC)OCC | C18H19BrO5
